US04684653
Diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido [2,3-d]pyrimidin-6-yl)ethenyl]benzoyl)-L-glutamate
To an ice cold solution of 1.5 g (0.0043 mol) of 2-acetamido-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine in 40 mL of N-methylpyrrolidone containing 1.4 mL of N-methylmorpholine was added 1.72 g (0.0064 mol) of phenyl N-phenylphosphoramidochloridate in a single portion. The resulting mixture was stirred at 0° C. for 30 minutes. Diethyl L-glutamate hydrochloride (1.53 g, 0.0064 mol) was then added and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residual solid triturated with 50 mL of 1N aqueous sodium carbonate. The mixture was filtered and the collected solid dissolved in 20 mL of chloroform. The chloroform solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated to dryness and chromatographed on silica gel. Elution with chloroform:methanol (95:5) gave 1.52 g (66%) of the title compound, which may be alternatively named as diethyl 2-acetyl-5,10-dideaza-9,10 -didehydrofolate, mp >250° C.; NMR (CDCl3Me2SO-d6) delta 1.15-1.45 (2t, 6H, J=6 Hz), 2.0-2.65 (m, 4H), 2.3 (s, 3H), 4.0-4.35 (2q, 4H, J=6 Hz), 4.5-4.75 (m, 1H), 6.7, 6.9 (AB q, 2H, J=15 Hz), 7.33, 7.84 (AB q, 4H, J=9 Hz), 8.25-8.38 (m, 2H), 8.62 (d, 1H, J=2 Hz), 11.5-12.5 (br, 2H); IR (Nujol) 3320, 3150, 1730, 1680, 1630, 1600 cm-1.

reactant | 2-acetamido-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 0.0043 mol, 1.5 g | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)O)O | C18H14N4O4
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | phenyl N-phenylphosphoramidochloridate | 0.0064 mol, 1.72 g | C1(=CC=CC=C1)NP(OC1=CC=CC=C1)(=O)Cl | C12H11ClNO2P
reactant | Diethyl L-glutamate hydrochloride | 0.0064 mol, 1.53 g | Cl.N[C@@H](CCC(=O)OCC)C(=O)OCC
solvent | N-methylpyrrolidone | 40 mL | CN1C(CCC1)=O | C5H9NO
product | Diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido [2,3-d]pyrimidin-6-yl)ethenyl]benzoyl)-L-glutamate | 1.52 g, 66% | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C27H29N5O7
